US07618990B2
The above prepared 2:1 mixture of 5-(2-bromo-acetyl)-1-methyl-1H-pyrrole-3-carbonitrile and 5-acetyl-1-methyl-1H-pyrrole-3-carbonitrile in ethanol (50 mL) was treated with N-(2-Hydroxy-1,1-dimethylethyl)thiourea, prepared in step 2 of Example 52, and heated under reflux. The mixture was filtered while still hot, and the precipitate washed with ethanol, and then partitioned between 1 N sodium carbonate and ethyl acetate. The organic layer was washed with water, dried (anhydrous MgSO4) and evaporated to afford 5-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}-1-methyl-1H-pyrrole-3-carbonitrile (1.10 g, 3.98 mmol), as a yellow oil. ANLC 100% at 210-370 nm, 7.8 min; 100% at 248 nm, 7.8 min, the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min. HRMS: calcd for C13H16N4OS [M+H]+, 277.11176; found (ESI, [M+H]+), 277.1126.

reactant | 5-(2-bromo-acetyl)-1-methyl-1H-pyrrole-3-carbonitrile | BrCC(=O)C1=CC(=CN1C)C#N | C8H7BrN2O
reactant | 5-acetyl-1-methyl-1H-pyrrole-3-carbonitrile | C(C)(=O)C1=CC(=CN1C)C#N | C8H8N2O
reactant | N-(2-Hydroxy-1,1-dimethylethyl)thiourea | OCC(C)(C)NC(=S)N | C5H12N2OS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}-1-methyl-1H-pyrrole-3-carbonitrile | 3.98 mmol, 1.10 g | OCC(C)(C)NC=1SC=C(N1)C1=CC(=CN1C)C#N | C13H16N4OS
